Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right sided weakness and imbalance
 
Major Surgical or Invasive Procedure:
TEE ___

 
History of Present Illness:
The pt is a ___ year old left handed man with no past medical
history who presents as transfer for right sided weakness, found
to have a pontine infarct.

The patient reports that he was in his usual state of health
until about 1 week ago, when he awoke to find himself with right
sided arm and leg pain. He was still able to walk but felt that
he was unsteady, and also felt that the right arm and leg were
not completely under his control. However, he did not seek care,
and ended up going about the rest of his day as usual. When he
awoke the next morning, his symptoms had resolved. He was fine
until yesterday, when again he experienced the same weakness 
upon
awakening. Again, he did not seek help, believing that symptoms
would also go away as they did a week ago. However symptoms
persisted today, so he sought care at ___. 

At ___, his vital signs were normal (BP 120s), but did have
right sided weakness on evaluation. Initial CBC/chemistry/coags
were all unremarkable. Noncontrast head CT was negative. He
underwent MRI head which revealed left pontine infarct. CTA
head/neck also performed, but no report was sent. He was
subsequently transferred to ___ ED for further evaluation.

ROS is notable for an unusual headache he experienced 3 months
ago that consisted of constant bifrontal pressure, lasting 8 
days
without fluctuation, not responsive to sumatriptan, which 
finally
stopped on its own. He has never experienced this kind of
headache before. Afterwards, he had intermittent bilateral
tinnitis, for which he sought an evaluation and was told that he
should try to ignore it. He does not have the tinnitus now. In
addition, he feels that speaking is more difficult and taxing,
but denies that it is slurred. Otherwise, he denies loss of
vision, blurred vision, diplopia, dysphagia, lightheadedness,
vertigo, or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies numbness, parasthesiae. No bowel 
or
bladder incontinence or retention. Denies difficulty with gait.

 
Past Medical History:
None
 
Social History:
Lives with roommates. Works in ___ with heavy lifting of
boxes. Endorses daily marijuana use, as well as occasional beer
with ___ drinks weekly, denies IVDU. Currently sexually active
with ___ female partner.

- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Mother with a spontaneous abortion at ___s heart
murmur. Maternal grandmother with 3 miscarriages. No known 
family
history of stroke or other neurologic disorders.

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: temp 98.8, HR 60, BP 120/77, RR 16, spO2 98% RA
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI, with saccadic
intrusions on rightward gaze. There are corrective saccades
towards the right. No diplopia elicited on any other gaze. VFF 
to
confrontation.
V: Facial sensation intact to light touch and pinprick.
VII: Right NLFF and decreased activation on smile, possible
subtle right eye closure weakness.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, ___ strength b/l.

-Motor: Normal bulk, tone throughout. Right pronation.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc
L  5    ___   ___  5   5    5  5     5    
R  4-   5   4+  5-  ___  4-  5    4  5-    5    

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  3  3    3    3   4 (sustained clonus)
Plantar response was flexor left, extensor right.

-Coordination: Prominent dysmetria on right upper and lower
extremities out of proportion to degree of weakness.

-Gait: Deferred in ED.

DISCHARGE EXAMINATION
=====================
 Vitals: Temp: 97.8 (Tm 98.1), BP: 113/68 (111-117/63-72), HR: 
63 (55-74), RR: 18 (___), O2 sat: 97% (97-99)
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, oriented x3. Language is fluent with 
intact comprehension. Able to follow both midline and 
appendicular commands. 

-Cranial Nerves: PERRL (3 to 2 mm ___. EOMI without nystagmus. 
Facial sensation
intact to light touch. R NLFF. Hearing intact to conversation. 
Palate elevates symmetrically. Tongue protrudes in midline.

-Motor: Marked ataxia in right arm with slight drift. 
   Delt Bic Tri WrE FE IP Ham TA
 L  5    ___  ___  5 
 R  4+   5   4+  4+ ___ 5-

-Sensory: Intact to LT throughout.

-DTRs: ___.

-Coordination: Marked dysmetria with FTN on R.

 
Pertinent Results:
___ 04:10AM BLOOD WBC-6.7 RBC-5.27 Hgb-15.2 Hct-45.8 MCV-87 
MCH-28.8 MCHC-33.2 RDW-13.2 RDWSD-41.6 Plt ___
___ 01:11PM BLOOD ___ PTT-33.5 ___
___ 04:10AM BLOOD Glucose-103* UreaN-27* Creat-0.8 Na-142 
K-4.0 Cl-103 HCO3-25 AnGap-14
___ 01:11PM BLOOD Lupus-PND
___ 05:50PM BLOOD ALT-22 AST-22 LD(LDH)-180 AlkPhos-75 
TotBili-0.7
___ 04:10AM BLOOD Calcium-9.5 Phos-3.8 Mg-1.8
___ 05:50PM BLOOD Triglyc-120 HDL-55 CHOL/HD-3.5 
LDLcalc-114
___ 05:50PM BLOOD TSH-1.2
___ 04:10AM BLOOD ___
___ 05:50PM BLOOD b2micro-1.5
___ 05:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:07PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 11:00 TTE
Good image quality. No intracardiac source of thromboembolism 
identified.

___ 08:06
Good image quality. No spontaneous echo contrast or thrombus in 
the left atrium/left atrial appendage/right atrium/right atrial 
appendage. No atrial septal defect or patent forament ovale 
identified by 2D, Doppler or intravenous saline with maneuvers. 
No valvular pathology or pathologic flow identified.
 
Brief Hospital Course:
___ left-handed man without known past medical history 
transferred from ___ after presenting with 
right-sided weakness and imbalance, following a similar 
transient episode one week prior to presentation. MRI 
demonstrated an acute left paramedian pontine ischemic infarct, 
though CT/CTA did not demonstrate culpable vascular occlusion or 
dissection (no significant large vessel stenosis), and TTE and 
follow-up TEE did not demonstrate evidence of a PFO, 
intracardiac thrombus, or valvular disease. Testing for 
antiphospholipid antibody syndrome was negative for 
anticardiolipin and anti-beta-2 glycoprotein antibodies, with 
lupus anticoagulant pending at time of discharge. Mechanism of 
infarct therefore remains unclear, with suspicion for 
association with marijuana use or, less likely, related to 
underlying paroxysmal atrial fibrillation, for which cardiac 
monitoring was ordered at time of discharge. Aspirin and 
atorvastatin were initiated for secondary stroke prevention in 
the meantime. LDL 116. HbA1C 5.5

TRANSITIONAL ISSUES
1. Cardiac monitoring for 30 days to assess for paroxysmal 
atrial fibrillation.
2. Ongoing substance use counseling.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 116) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
 9. Discharged on statin therapy? (x) Yes - () No
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic left pontine infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ 
from ___ after presenting with right sided 
weakness. CT and MRI scans of your head and neck showed signs of 
a stroke in your brainstem (at the pons), which likely caused 
your weakness. Ultrasounds of your heart, including one done by 
endoscopy, did not show signs of an abnormal connection between 
your heart chambers ("patent foramen ovale"), valve disease, or 
blood clots that could have accounted for your stroke. Blood 
tests also suggested that you do not have a condition that could 
predispose to forming blood clots ("antiphospholipid antibody 
syndrome"), although one aspect of this testing is still 
pending. You received a heart monitor prior to leaving the 
hospital to look for a heart rhythm that could predispose you to 
blood clots and strokes.

We also found that you have high cholesterol and started a 
medication called atorvastatin (40mg at night) for this. 

Please follow up with your primary care provider within one week 
of discharge from your acute rehabilitation facility. Please 
also follow up with Neurology at the appointment listed below.

It was a pleasure taking care of you at ___.

Sincerely,
___ Neurology
 
Followup Instructions:
___